US07732463B2
4-Hydroxy-4-(2-mercapto-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (Intermediate for 4a)
This intermediate was prepared from 2-bromo-benzenethiol and 4-oxo-piperidine-1-carboxylic acid tert-butyl ester in a similar way as described for 4-(5-fluoro-2-mercapto-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 2-bromo-benzenethiol | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 4-(5-fluoro-2-mercapto-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC(=C1)F)S | C16H22FNO3S
product | 4-Hydroxy-4-(2-mercapto-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=C(C=CC=C1)S)O | C16H23NO3S
